US07071208B2
2-Amino-4-methylpyridine (2.2 g, 20.3 mmol) and 2-bromo-4-methyl4-nitropentanal (20.3 mmol) are reacted as described in Amine 7 to give 3.0 g of 7-methyl-3-(2-methyl-2-nitropropyl)imidazo[1,2-a]pyridine (63%).

reactant | 2-Amino-4-methylpyridine | 20.3 mmol, 2.2 g | NC1=NC=CC(=C1)C | C6H8N2
reactant | 2-bromo-4-methyl4-nitropentanal | 20.3 mmol | BrC(C=O)CC(C)([N+](=O)[O-])C | C6H10BrNO3
product | 7-methyl-3-(2-methyl-2-nitropropyl)imidazo[1,2-a]pyridine | 3.0 g, 63% | CC1=CC=2N(C=C1)C(=CN2)CC(C)([N+](=O)[O-])C | C12H15N3O2
